US04608442
In the same flask as in Example 1, there were charged 3-acetoxy-2-n-pentyl-3-methyl-4-cyclopentenone (2.24 g), tetrahydrofuran (10 ml) and 20% sulfuric acid (10 ml), and the resultant mixture was stirred at 30° to 50° C. for 6 hours. After completion of the reaction, the reaction mixture was subjected to post-treatment and purification as in example 1 to give 1.55 g of 4-hydroxy-2-n-pentyl-3-methyl-2-cyclopentenone. Yield, 85%.

reactant | 3-acetoxy-2-n-pentyl-3-methyl-4-cyclopentenone | 2.24 g | C(C)(=O)OC1(C(C(C=C1)=O)CCCCC)C | C13H20O3
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-hydroxy-2-n-pentyl-3-methyl-2-cyclopentenone | 1.55 g | OC1C(=C(C(C1)=O)CCCCC)C | C11H18O2
